US06734200B1
3-(4-(1-(3-Hydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-(isoxazol-3-ylaminomethyl)oxazolidin-2-one
3-(4-(1-(3-Hydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one (176 mg, 0.32 mM), was dissolved in dichloromethane (1 ml) and treated with trifluoroacetic acid (1 ml) at ambient temperature. After stirring for 10 minutes, the mixture was diluted with water (15 ml) and dichloromethane (15 ml), the organic layer separated, washed with water (2×15 ml), and dried (magnesium sulfate). Solvent was removed, and the residue triturated with diethyl ether to give the desired product (102 mg). NMR (DMSO-d6) δ: 2.20 (m, 1H); 2.28 (m, 1H); 2.48 (m overlapped by DMSO, 2H); 3.42 (br m overlapped by H2O, ˜4H); 3.55 (br m, ˜3H); 3.83 (t, 1H); 4.01 (m, 1H); 4.06 (m, 2H); 4.81 (m, 1H); 5.78 (s, 1H); 5.92 (s, 1H); 6.47 (br s, 1H); 7.26 (d, 2H); 8.31 (s, 1H). MS (ESP): 449 (MH+) for C21H22F2N4O5

reactant | 3-(4-(1-(3-Hydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one | 0.32 mM, 176 mg | OCCC(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=NOC=C1)=O)F | C26H30F2N4O7
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(4-(1-(3-Hydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-(isoxazol-3-ylaminomethyl)oxazolidin-2-one | 102 mg | OCCC(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC1=NOC=C1)=O)F | C21H22F2N4O5
